US06172228B2
N-Cyclopropyl-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide (6.20 g, 12.65 mmol) prepared in the same manner as in Example 4 was dissolved in methanol (20 ml). 2 M Hydrochloric acid (factor 1.004) (15.00 ml) was added thereto, and the solvent was then removed by evaporation in vacuo. Acetone was added to the residue, and the precipitated crystals were collected by filtration. The crystals were recrystallized from acetone, to give N-cyclopropyl-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride (5.60 g) as colorless prisms (yield based on N-cyclopropyl-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide: 78.6%).

reactant | N-Cyclopropyl-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide | 12.65 mmol, 6.20 g | C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C26H36ClN3O2S
reactant | Hydrochloric acid | 2 M, 15.00 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | N-cyclopropyl-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride | 5.60 g | Cl.Cl.C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | InChI=1S/C26H36ClN3O2S.2ClH/c27-24-12-10-23(11-13-24)26(22-8-4-3-5-9-22)30-19-17-29(18-20-30)16-6-1-2-7-21-33(31,32)28-25-14-15-25;;/h3-5,8-13,25-26,28H,1-2,6-7,14-21H2;2*1H
